US04435403
A mixture of 2.0 g of beta-carboline-3-carboxaldehyde, 2.0 g of malonic acid, 40 ml of water-free pyridine and 0.1 ml of piperidine is heated in a steam bath for 4 h. The solvent is evacuated in vacuum and after adding 20 ml of 2-propanol, the precipitate is filtered off. 2.3 g of 3-(3-beta-carbolinyl)acrylic acid with a m.p. of 240°-260° C. (decomposition) is obtained.

reactant | beta-carboline-3-carboxaldehyde | 2.0 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=O | C12H8N2O
reactant | malonic acid | 2.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | water | 40 ml | O | H2O
product | 3-(3-beta-carbolinyl)acrylic acid | 2.3 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=CC(=O)O | C14H10N2O2
